US04034098
4-Benzenesulphonamido-1-(4-p-chlorophenyl-4-oxobutyl)piperidine
Using an analogous procedure to Example 2 4-amino-1-(4-p-chlorophenyl-4-oxobutyl)piperidine may be reacted with benzenesulphonyl chloride to give the title compound.

reactant | 4-amino-1-(4-p-chlorophenyl-4-oxobutyl)piperidine | NC1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)Cl | C15H21ClN2O
reactant | benzenesulphonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 4-Benzenesulphonamido-1-(4-p-chlorophenyl-4-oxobutyl)piperidine | C1(=CC=CC=C1)S(=O)(=O)NC1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)Cl | C21H25ClN2O3S
